US06743793B2
2-Methylindol-4-yloxyacetic Acid Methyl Ester
To a solution of 2-methyl-4-hydroxyindole (5 g) in N,N-dimethylformamide (50 ml) was added anhydrous potassium carbonate 11.7 g) and methyl bromoacetate (3.54 ml) at room temperature, and the mixture was stirred at 80° C. for 2 hours. To the reaction solution was added iced water to give the title compound (5.4 g) having the following physical data.

reactant | 2-methyl-4-hydroxyindole | 5 g | CC=1NC2=CC=CC(=C2C1)O | C9H9NO
reactant | potassium carbonate | 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 3.54 ml | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Methylindol-4-yloxyacetic Acid Methyl Ester | 5.4 g | COC(C(C)OC1=C2C=CNC2=CC=C1)=O | C12H13NO3
